US05962460
Each of the commercially available 4-hydroxycoumarin, 7-hydroxycoumarin(R3 =R4 =R5 =H), 7-hydroxy-4-methylcoumarin(R4 =CH3), 3-chloro-7-hydroxy-4-methylcoumarin(R3 =Cl, R4 =CH3), and 7-hydroxy-3,4,8-trimethylcoumarin (R3 =R4 =R5 =CH3) was treated with potassium carbonate and a haloketone (chloroacetone, R1 =CH3 ; 2-bromoacetophenone, R1 =C6H5 ; 2-bromo-4'-fluoroacetophenone, R1 =C6H4F; 2-bromo-4'-chloroacetophenone, R1 =C6H4Cl; 2-bromo-4'-bromoacetophenone, R1 =C6H4Br; 2-bromo-4'-iodoacetophenone, R1 =C6H4I; 2-bromo-4'-methylacetophenone, R1 =C6H4CH3 ; 2-bromo-4'-nitroacetophenone, R1 =C6H4NO2 ; 2-bromo-4'-methoxyacetophenone, R1 =C6H4OCH3 ; 2-bromo-4'-phenylacetophenone, R1 =C6H4C6H5) in acetone to provide (2-oxo-2-phenyl ethoxy)-2H-1-benzopyran-2-one which was reacted with ethyl 2-(bromomethyl)acrylate in tetrahydrofuran(THF) (Reformatsky reaction) to produce 4-[(2,3,4,5-tetrahydro-3-methylene-2-oxo-5-furanyl)methoxy]-2H-1-benzopyran-2-ones and 7-[(2,3,4,5-tetrahydro-3-methylene-2-oxo-5-furanyl)-methoxy]-2H-1-benzopyran-2-ones as shown in Scheme 2.

reactant | 4-hydroxycoumarin | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | 7-hydroxycoumarin | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | 7-hydroxy-4-methylcoumarin | OC1=CC=C2C(=CC(OC2=C1)=O)C | C10H8O3
reactant | 3-chloro-7-hydroxy-4-methylcoumarin | ClC=1C(OC2=CC(=CC=C2C1C)O)=O | C10H7ClO3
reactant | 7-hydroxy-3,4,8-trimethylcoumarin | OC1=CC=C2C(=C(C(OC2=C1C)=O)C)C | C12H12O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | (2-oxo-2-phenyl ethoxy)-2H-1-benzopyran-2-one | O=C(COC=1C(OC2=C(C1)C=CC=C2)=O)C2=CC=CC=C2 | C17H12O4
